US04673429
8 g of methyl isocyanate, dissolved in 50 g of acetonitrile, are added to 15 g of 4-chloro-1-hydroxypyrazole and 150 g of acetonitrile at 25° C., while stirring. Stirring is continued for 12 hours, after which the reaction mixture is evaporated down and the residue is digested 3 times with a total of 150 g of petroleum ether. 17.8 g (80% of theory) or 4-chloropyrazol-1-yl N-methylcarbamate of melting point 125° C. are obtained.

reactant | methyl isocyanate | 8 g | CN=C=O | C2H3NO
reactant | 4-chloro-1-hydroxypyrazole | 15 g | ClC=1C=NN(C1)O | C3H3ClN2O
solvent | acetonitrile | 50 g | C(C)#N | C2H3N
solvent | acetonitrile | 150 g | C(C)#N | C2H3N
product | 4-chloropyrazol-1-yl N-methylcarbamate | CNC(ON1N=CC(=C1)Cl)=O | C5H6ClN3O2
